US06465478B1
8-(1-Benzylcycloheptyl)-1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one
This was prepared according to the procedure described in Example 1 using 1-(4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)cyclohexanecarbonitrile instead of 1-(4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)cycloheptanecarbonitrile and benzylmagnesium bromide instead of phenylmagnesium bromide. Yield was 54%.

reactant | 1-(4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)cyclohexanecarbonitrile | O=C1NCN(C12CCN(CC2)C2(CCCCC2)C#N)C2=CC=CC=C2 | C20H26N4O
reactant | benzylmagnesium bromide | C(C1=CC=CC=C1)[Mg]Br
product | 8-(1-Benzylcycloheptyl)-1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one | Yield was 54% | C(C1=CC=CC=C1)C1(CCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C27H35N3O
